US08859588B2
(2S,3′S)-2-Methyl-1′-(6-nitro-pyridin-3-yl)-[1,3′]bipyrrolidinyl
To a solution of (2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl dihydrochloride (0.530 g, 2.35 mmol,) in acetonitrile (25 mL) was added 5-chloro-2-nitro-pyridine (0.561 g, 3.53 mmol,) and powdered potassium carbonate (1.30 g, 9.40 mmol). The reaction mixture was then heated to 65° C. for 4.0 hr, then at 45° C. for 16 hr. The reaction mixture was then allowed to cool to room temperature and filtered through a 10.0 g Varian Bond Elut SCX (stong cation-exchange) cartridge eluting with 50 mL of (1:1) methanol in dichloromethane, 25 mL of methanol, followed by 7N ammonia in methanol (50 mL). The filtrate was concentrated under vacuum to obtain a compound which was purified again by column chromatography on silica gel eluting with methanol in dichloromethane (0-10%) to afford 0.110 g (17%) of the title compound.

reactant | (2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl dihydrochloride | 2.35 mmol, 0.530 g | Cl.Cl.C[C@@H]1N(CCC1)[C@@H]1CNCC1
reactant | 5-chloro-2-nitro-pyridine | 3.53 mmol, 0.561 g | ClC=1C=CC(=NC1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 9.40 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (2S,3′S)-2-Methyl-1′-(6-nitro-pyridin-3-yl)-[1,3′]bipyrrolidinyl | 0.110 g, 17% | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C14H20N4O2
